US05792769
c) 2-Chlorobenzenesulfonic acid 3-benzyloxyphenyl ester
To a solution of 3-benzyloxyphenol (2.97 g, 15 mmol), as prepared in the preceding step, in methylene chlorine (50 mL) at 0° C., was added N,N-diisopropylethylamine (2 mL) and 2-chlorobenzenesulfonyl chloride (3.27 g, 15.5 mmol). The reaction mixture was stirred at 0° C. for 2 h and at room temperature for 2 h. The reaction mixture was diluted with methylene chloride (200 mL), washed sequentially with saturated NaHCO3 (2×50 mL) and brine (2×50 mL), dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography (1:1 hexane:methylene chloride) to give the title compound as a colorless liquid (5.35 g, 95%). 1H-NMR (300 MHz, CDCl3) δ 4.97 (s, 2H), 6.71 (dd, 1H), 6.78 (t, 1H), 6.85 (dd, 1H), 7.17 (t, 1H), 7.37 (m, 5H) 7.58 (m, 2H), 7.91 (dd, 1H).

reactant | 3-benzyloxyphenol | 15 mmol, 2.97 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)O | C13H12O2
reactant | N,N-diisopropylethylamine | 2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chlorobenzenesulfonyl chloride | 15.5 mmol, 3.27 g | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | methylene chlorine | 50 mL | C=Cl | CH2Cl
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-Chlorobenzenesulfonic acid 3-benzyloxyphenyl ester | 5.35 g, 95% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C19H15ClO4S
